US06762205B1
The procedure of Preparation Example 38 was repeated, except that 314 mg of 4-[N-(4-benzyloxybenzyl)amino]benzonitrile was used in place of 4-[N-(3-pyridyl)amino]benzonitrile, and 142 mg of methyl iodide was used in place of 4-benzyloxybenzyl chloride. The resulting crude product was purified by TLC (using a 2:1 mixture of hexane and ethyl acetate as the developing solvent) to obtain 173 mg of 4-[N-(4-benzyloxybenzyl)-N-methylamino]benzonitrile.

reactant | 4-[N-(4-benzyloxybenzyl)amino]benzonitrile | 314 mg | C(C1=CC=CC=C1)OC1=CC=C(CNC2=CC=C(C#N)C=C2)C=C1 | C21H18N2O
reactant | methyl iodide | 142 mg | CI | CH3I
product | 4-[N-(4-benzyloxybenzyl)-N-methylamino]benzonitrile | 173 mg | C(C1=CC=CC=C1)OC1=CC=C(CN(C)C2=CC=C(C#N)C=C2)C=C1 | C22H20N2O
